US05801195
Methyl N-nicotinoyl-3-amino-3-(3',4'-dimethoxyphenyl)propionate.
To a cooled (0° C.) stirred suspension of 3-amino-3-(3',4'-dimethoxyphenyl)propionate hydrochloride (1.38 grams, 5.0 mmol) and triethylamine (1.5 milliliters, 10.8 mmol) in 20 milliliters of tetrahydrofuran was added nicotinoyl chloride hydrochloride (0.89 grams, 5.0 mmol). The thick slurry was stirred for 15 minutes and then allowed to warm to room temperature and stirring was continued for 2 hours. The reaction mixture was treated with 20 milliliters of water resulting in a brown colored solution. The tetrahydrofuran was removed in vacuo and the aqueous layer was extracted with methylene chloride (3 times, 25 milliliters). The combined extracts were dried over magnesium sulfate and concentrated in vacuo to afford an oil which solidified overnight. The white solid was dried in vacuo (60° C., <1 mm) to afford 0.52 grams (30%) of crude product. The crude product was purified by flash chromatography (silica gel, 5% methanol/methylene chloride) and dried in vacuo (60° C., <1 mm) to afford 0.38 grams (22%) of the product as a white solid: 1H NMR (CDCl3) δ 9.10-9.00(m, 1 H), 8.80-8.69(m, 1 H), 8.19-8.08(m, 1 H), 7.65-7.31(m, 2 H), 6.96-6.76(m , 3 H), 5.64-5.50(m, 1 H), 3.87(s, 3 H), 3.67(s, 3 H), 3.14-2.37(m, 2 H). 13C NMR (CDCl3) δ 172.1, 164.6, 152.4, 149.2, 148.7, 148.1, 135.0, 132.8, 129.9, 123.5, 118.1, 111.3, 111.2, 109.9, 109.8, 55.9, 52.0, 49.8, 39.5. HPLC 99.47%.

reactant | 3-amino-3-(3',4'-dimethoxyphenyl)propionate hydrochloride | 5.0 mmol, 1.38 grams | Cl.NC(CC(=O)O)C1=CC(=C(C=C1)OC)OC
reactant | triethylamine | 10.8 mmol, 1.5 milliliters | C(C)N(CC)CC | C6H15N
reactant | nicotinoyl chloride hydrochloride | 5.0 mmol, 0.89 grams | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | water | 20 milliliters | O | H2O
solvent | tetrahydrofuran | 20 milliliters | O1CCCC1 | C4H8O
product | Methyl N-nicotinoyl-3-amino-3-(3',4'-dimethoxyphenyl)propionate | 0.38 grams, 22% | C(C1=CN=CC=C1)(=O)NC(CC(=O)OC)C1=CC(=C(C=C1)OC)OC | C18H20N2O5
